US06995184B2
2-Methyl-7-chloro-1H-indole.
42.1 g of 2-chloronitrobenzene are placed in 850 ml of THF under a nitrogen atmosphere. The mixture is cooled to −40° C. and then 1.61 of 0.5M isopropenylmagnesium bromide in THF are added dropwise. After stirring at −40° C. for 1 hour, the mixture is hydrolysed with 400 ml of a saturated NH4Cl solution. The aqueous phase is extracted twice with ether. The organic phase is dried and then evaporated and the residue is chromatographed on silica while eluting with toluene. 20.3 g of the expected compound are obtained.

reactant | 2-chloronitrobenzene | 42.1 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | isopropenylmagnesium bromide | 0.5M | C(=C)(C)[Mg]Br
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
solvent | THF | 850 ml | C1CCOC1 | C4H8O
product | 2-Methyl-7-chloro-1H-indole | 20.3 g | CC=1NC2=C(C=CC=C2C1)Cl | C9H8ClN
